US07470680B2
1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride.
tert-Butyl 4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (5.97 g, 18.75 mmol) was dissolved in methanol (180 ml). 4M Hydrogen chloride in 1,4-dioxane (50 ml, 200 mmol) was added to the mixture. Reaction stirred at room temperature for 18 hours. Solids were filtered off and washed with methanol. Solids were collected and dried in vacuo. Title compound was obtained as white solid in 87% yield. MS (M+H)+=219.1.

reactant | tert-Butyl 4-(2-oxo-2,3-dihydroimidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 18.75 mmol, 5.97 g | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N4O3
reactant | Hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 200 mmol, 50 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 180 ml | CO | CH4O
product | 1-(piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one dihydrochloride | 87% yield | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | InChI=1S/C11H14N4O.2ClH/c16-11-14-10-9(2-1-5-13-10)15(11)8-3-6-12-7-4-8;;/h1-2,5,8,12H,3-4,6-7H2,(H,13,14,16);2*1H
